US04382939
3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 59 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.010 moles), propionic acid (20 ml), and sodium borohydride (2.3 g, 0.061 moles). Recrystallization from ethanol gave the product (3.0 g) as the dihydrochloride, 5:1 hydrate, mp 248° C. (dec.).

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.010 moles, 3.0 g | C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)C)C | C18H24N2O2
reactant | sodium borohydride | 0.061 moles, 2.3 g | [BH4-].[Na+]
reactant | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
product | 3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 3.0 g | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)C)C)CCC | C21H30N2O2
